Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I'm just not sure what I want to do"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Briefly, this is a ___ y/o single male currently on leave from 
___ in ___, living with his father and 
father's gf in two family with grandmother, whose mother died 
when he was in ___, with prior hx of suicide attempt last 
___, presenting from ___ PCp's office where he 
had gone for physical yesterday then reported suicidal ideation. 
He was evaluated by crisis counselor and sent to ___ for 
safety assessment with father. ___ from ___ 
___ states "from HVG with si and plan to jump off building. 
has had 2 SA in past." Patient has a PCP there but did not see 
the PCP who he knows, instead saw NP who he did not know; he has 
started process to obtain f/u with mental health provider but 
did not complete intake - the therapist seen today is not Mr. 
___ regular provider. On arrival in ED, pt acknowledged 
the suicidal ideation and plan to jump off specific building but 
has gradually been backing away from original history provided 
to dr. ___. Mr. ___ now describes events as "everything 
is just a misunderstanding" but he does acknowledge the suicidal 
ideation. He reports lifelong hx of depression as per Dr. ___, 
___ stresses that overall the last few months have been "Down, 
down, down" in terms of mood. N/v signs as per Dr. ___. He has 
had some periods where he felt only his usual low level of 
depression, but he has not had periods feeling euthymic, and 
describes last few weeks since the courses at ___ ended as 
getting rapidly worse. Regarding events leading to this ED 
visit, patient confirmeed that they occurred in context of 
conversation with aunt and GM in which they tried to pin him 
down on whether he was going to school or not in the fall that 
immediately preceded a very intense sense of hopelessness, 
guilt, sense that life was not worth living, and suicidal 
ideation which rapidly escalated to point of making specific 
plan (going on garage of specific building in ___. He 
describes feeling conflicted about what he wanted to do vs 
father wanted him to do as well as felt "trapped" as neihter 
option (returning ___ / having to do community college and 
transfer to yet a third school to continue college) felt good. 
However, he now states this was not a real plan, that he didn't 
ever really have intent, and that he was just trying out the 
idea. On ___ after the argument with family when he began to 
feel suicidal, he called a friend, ___, who will be at ___ in 
the fall; ___ was supportive but seemed very worried about 
patient, and patient then felt guilty and felt he may have 
disappointed or upset ___ in his own despair, which worsened 
intensity of suicidal ideation." 
.
CONTACT WITH FATHER
Father is a ___ police officer. He is pleasant and expresses 
positive regard for his son's wellbeing. He describes having had 
a lot of experience as a police ___ with the mental health 
system. In general, father does not see his son as depressed. He 
did not feel that patient's first overdose was a suicide attempt 
and stated that patient was not passed out but that he had 
vomited. He did not clearly explain why he did not take patient 
in to the ED for medical work up but didn't seem to think that 
would help his son. Father states that he "knows" (he stresses 
that his knowledge is in contradistinction to what I and other 
physicians may "think") that his son made his previous 
overdose/suicide attempts because he "just gave up on school" 
since no one was around to tell him to go to class. Father's 
perspective on time line is that his son fell behind due to not 
being pushed, didn't go to class, then felt bad that he was 
failing others in his own mind, including himself, then he 
talked to his so'called friends who gave him advice, so he 
decided not to go back to school. Father says he accepted this 
plan, took son home, but notes that son seemed perfectly happy, 
playing video games, laughing and talking with his friends etc. 
___ said he told ___ that since son was feeling so good, he 
needed to get a job, and that's when patient decided to hurt 
himself; father believes son took OD because he was mad, and 
does not think he was ever depressed. He sees overdose as his 
son's way of acting out. He says that time went by, and his son 
never followed up about getting someone to talk to, which he 
feels is due to patient being well. Then pt decided to go back 
to school, to take courses here to go back to ___ and be back 
on track, which father perceived as having nothing to do with 
pleasing him. He expresses strong disagreement with son's 
description of his mood as going "down, down, down" over last 6 
months and especially last weekend. Fa stresses that this is all 
"his doing, not mine". Patient's father expresses concern that 
"You're just going to drug him up and mess up his brain". Father 
also described his experience with friends and people on 
Methadone Mile in ___, and states that in his opinion, people 
on heroin got hooked on it because of their psych medications - 
he states that he has seen many more problems with people dying 
from "psych medicines" than from opiate overdoses. Fears son 
will be "numbed and drugged up" with meds and politely expresses 
concern that doing that is my goal and the goal of psychiatry in 
general.
 
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
  Hospitalizations: Denies
  Current treaters and treatment: Previous therapists at ___
and one at age ___ for bullying at school getting to him. ___: Dr. ___. States that he had an incomplete
intake for a therapist at ___ in ___. 
  Medication and ECT trials: Denies
  Self-injury: Multiple SAs
  Harm to others: denies
  Access to weapons: Denies
.
PPH addendum
- Current treaters: None. Has considered referral to ___ 
___. Also considered referrals given to him by friends but
felt places suggested were unrealistic for him to get to. Had
former therapist whom he saw at ___ who was helpful.
- Self harm: He clarifies several details of history vs. that
provided to Dr. ___. Of note, he had already taken leave form
___ when he made the suicide attempt/s (he sees them more as
one long drawn out event, first ingestion of random fluids and
then second the OD on sleeping pills) - it actually occurred 
here in ___, not in ___. Patient describes taking 
overdose after first attempt "failed" and that he went to sleep 
expecting to die, passed out and vomited; father denies that 
patient passed out. 
- Dx/Trauma hx: Endorses an event in high school of being hit by
father as below in ___. Pt has had flashbacks and nightmares in
past but no dissociation. Was told he had PTSD by therapist in
past. 
.
PAST MEDICAL HISTORY:
Denies
 
Social History:
SUBSTANCE ABUSE HISTORY:
 -Tobacco: Denies
 -ETOH: Denies
 -Illicit drugs: denies
.
SOCIAL HISTORY:
- Education: Pt attended ___ for high school 
in ___. Played ___ in ___. Currently on leave from 
___. Father describes having minimal investment in patient 
going to ___, but pt's impression is that father always 
wanted him to go there (pt's first choice was ___ but 
he didn't get in). Patient states that he is feeling much better 
and that
he is "reassured" that father stated to counselor that he did 
not have to return to ___. Father laughs heartily and states 
that this is silly as patient has always known this. Unclear 
accuracy of pt's statement that father has already paid for 
school (residential deposit? tuition?) as father laughed and did 
not answer question directly when I asked about it.
- Supports: Several other ___ students went to ___. Has 
several friends from high school who still are in the area. Has 
other friends he made at ___. Patient is an only child and 
mother died when he was young. Family relationships appear 
complex. Patient has the same name as his father, and he 
describes relationship with father as not bad, but not close. 
His father, however, is the central figure in patient's life. 
Mr. ___ describes father as having very strong and 
negative opinions about mental illness and psychiatrists. 
Patient and father have very different understandings of recent 
events and their connections to each other. Patient expresses 
strong wish to please father, which father denies. Aunt and 
grandmother appear to be close to patient as well.
- Sexual identity/ gender identity: Identifies as gay male; 
first identified as gay in high school; has several supportive 
adults in his life who know about this including teacher he 
found very helpful in high school. He has been sexually active 
only with men and used protection in each case. He does not have 
a current partner. Of note, pt has never talked about being gay 
with his father. His mother knew he was gay before she died, but 
unknown if she told father. Patient has discussed it with 
father's gf and with his aunt and does not consider it a secret, 
but also does not believe father is aware.
 
Family History:
FAMILY PSYCHIATRIC HISTORY:
An aunt has schizophrenia
 
Physical Exam:
___ ___ Temp: 98.4 PO BP: 98/61 HR: 60 RR: 16 O2 sat: 100%
Height: 65 in.   ___    
Weight: 65.32 kgs.   (144.00 lbs)   ___ 
BMI: 24 

Physical Exam: 
GEN: Well appearing young man, thin, but in no acute distress. 
HEENT:  Normocephalic, atraumatic. Moist mucous membranes. 
Anicteric sclera. 
CV:  Regular rate, normal S1, S2. No murmurs/rubs/gallops. 2+  
radial pulses. 
RESP: Non-labored. Clear to auscultation bilaterally. No 
wheezes, rales, rhonchi.  
ABD: Soft, non-distended
EXT: Warm and well perfused. No gross deformity. No peripheral  
edema.
SKIN: No rashes or lesions noted.
 .
Neurological Exam: 
- Cranial nerves: 
  II: PERRLA 4mm to 2mm, brisk bilaterally
  III, IV, VI: extraocular movements intact. no nystagmus.
  V: facial sensation to touch equal in all 3 divisions  
bilaterally
  VII: face symmetric 
  VIII: hearing normal bilaterally 
  IX, X: palate elevates symmetrically
  XI: head turning and shoulder shrug intact
  XII: tongue midline. 
- Reflexes: 1+ and symmetrical biceps, brachioradialis, patellar
- Motor:  ___ biceps, triceps, iliopsoas, quadriceps,  
hamstrings. Normal bulk. 
- Sensation: intact and symmetric to light touch. 
- Gait and station:  Good initiation. Narrow-based gait, normal  
stride and arm-swing. No ataxia noted. Normal coordination of  
finger to nose and heel to shin testing. Mild balance issue  
standing on one foot. 
- Abnormal movements:  No tremor or abnormal movements  
appreciated. 

Mental Status:
 *Appearance: NAD, laying in bed comfortably, appears stated 
age, appropriately dressed in hospital gown, good hygiene, 
well-groomed, well kept on examination
 *Behavior: Cooperative and appropriate, appropriate eye-contact 
indifferent, with rare inappropriate smiling and laughter when 
speaking about previous suicide attempts and current SI and plan 
no psychomotor agitation/retardation appreciated
 *Mood/Affect: Initially "calm"/blunted but reactive. Later 
anxious/nervous 
 *Thought Content: Denies passive death wishes, passive SI,
active SI; Denies delusions, AH/VH/HI 
 *Judgment and Insight: fair/fair

 Cognition:
 *Attention: Attentive 
 *Orientation, and executive function: Awake, alert and oriented
to person, place, and time. Able to list MOYB without 
difficulty.
 *Calculation: $1.75 = 7 quarters
 *Abstraction: Apple/orange = "fruits"; Ruler/watch = They
measure things; Train/bicycle =  transportion  
 *Proverb: "Grass is always greener on the other side" - Things 
will always seem better from the outside lookign in.
 *Memory: ___ registration, ___ recall
 *Fund of knowledge: Names ___ presidents    
 *Speech: Appropriate rate, rhythm, volume, and prosody, 
spontaneous, 
 *Language: Fluent in ___ without paraphasic errors
 
Pertinent Results:
___ 05:35PM BLOOD WBC-8.1 RBC-5.10 Hgb-15.6 Hct-45.7 MCV-90 
MCH-30.6 MCHC-34.1 RDW-12.3 RDWSD-40.6 Plt ___
___ 05:35PM BLOOD Glucose-84 UreaN-17 Creat-1.0 Na-141 
K-4.4 Cl-103 HCO3-23 AnGap-15
___ 06:40AM BLOOD %HbA1c-5.3 eAG-105
___ 06:40AM BLOOD Triglyc-43 HDL-36* CHOL/HD-2.6 LDLcalc-48
___ 05:35PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 06:40AM BLOOD TSH-1.___. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. He was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.

2. PSYCHIATRIC: 
On admission, patient's narrative and endorsed symptoms (e.g. 
guilt, hopelessness, suicidal ideation) appeared most consistent 
with a current depressive episode, complicated by periods of 
heightened anxiety and panic. Of note, patient also endorsed 
symptoms of trauma (nightmares, flashbacks). Diagnostically, 
patient's presentation appeared most consistent with a 
depressive episode that may be part of a major depressive 
disorder, or best explained by an adjustment disorder in the 
setting of patient's upcoming return to college. Of note, 
patient does not use substances.
. 
On subsequent interview the following morning, patient stated 
that he no longer feels
depressed or suicidal, stating that he "sometimes says things 
and then reels [himself] back in." He denied significant 
disturbances in sleep and appetite. Patient expressed his 
preference to avoid taking medication, rather he reiterated his 
desire to work with an individual outpatient therapist. He 
endorsed several sources of support and notes that while he and 
his father have argued in the past, he considers him a source of 
support. Mental status exam notable for "good" mood, full-range 
affect, and lack of suicidal ideation. He verbalized future 
oriented thought content with a plan to engage in outpatient 
treatment with a therapist.
.
3. SUBSTANCE USE DISORDERS: N/A
.
4. MEDICAL: No acute or chronic illnesses.
.
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. He was 
noted to be polite and appropriate when interacting with others 
in the milieu.
.
#) COLLATERAL INFORMATION AND  FAMILY INVOLVEMENT
Patient requested that treatment team speak with his father. A 
family meeting was held on ___, during which the patient's 
father voiced his concerns about his son being in the hospital, 
stating that he wanted his son to leave as soon as possible. 
Patient's father stated that his son did not need to be in the 
hospital in the first place. He acknowledged that his son 
previously had two suicide attempts but stated that neither 
medication nor inpatient stabilization is necessary. He does, 
however, agree that outpatient therapy would be beneficial. 
Patient expressed his wish to leave the hospital, noting "I 
don't think I need to be here... this was a misunderstanding."
.
#) RISK ASSESSMENT
At time of discharge, patient no longer endorsed suicidal 
ideation, nor did he verbalize thoughts/urges to engage in 
self-harm of others. He also demonstrated preserved capacity to 
engage in a meaningful conversation about safety planning about 
what he would do in the event that thoughts of self-harm or 
suicide arose in the future (e.g. call his friends, call a 
crisis hotline, call BEST ___ Emergency ___ Team), or 
present to the ED). Overall, at time of discharge, patient was 
no longer at acutely elevated risk of self-harm due to a 
decompensated psychiatric illness. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive episode

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ because of concerns for your safety.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___